US08629270B2
N-[(4aR,7aR)-7a-(2-Thienyl)-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide hydrochloride
To a solution of tert-butyl(4aR,7aR)-2-benzamido-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate (1.3 g, 2.93 mmol) in 1,4 dioxane (60 mL) is added drop wise 4 N hydrogen chloride in 1,4 dioxane (14.6 mL, 58.6 mmol). The reaction is stirred for 4 hours. The solution is concentrated to give the title compound (1.1 g, 99%). ES/MS (m/e): 344 (M+H).

reactant | tert-butyl(4aR,7aR)-2-benzamido-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | 2.93 mmol, 1.3 g | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(CN(C2)C(=O)OC(C)(C)C)C=2SC=CC2 | C22H25N3O3S2
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | 1,4 dioxane | 60 mL | O1CCOCC1 | C4H8O2
solvent | 1,4 dioxane | 58.6 mmol, 14.6 mL | O1CCOCC1 | C4H8O2
product | N-[(4aR,7aR)-7a-(2-Thienyl)-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide hydrochloride | 1.1 g, 99% | Cl.S1C(=CC=C1)[C@@]12N=C(SC[C@@H]1CNC2)NC(C2=CC=CC=C2)=O | InChI=1S/C17H17N3OS2.ClH/c21-15(12-5-2-1-3-6-12)19-16-20-17(14-7-4-8-22-14)11-18-9-13(17)10-23-16;/h1-8,13,18H,9-11H2,(H,19,20,21);1H/t13-,17-;/m0./s1
